US04051254
3-methyl-4-(dichloroacetamido)phenyl N-methylcarbamate
A mixture of 3-methyl-4-aminophenyl N-methylcarbamate (1.8 g., 0.01 mole) and dichloroacetic anhydride (2.4g., 0.01 mole) in 25 ml. of benzene was refluxed for about 1/2 hour. Filtration afforded the product as a white powder (2.35g., m.p. 199°-201° C.).

reactant | 3-methyl-4-aminophenyl N-methylcarbamate | 0.01 mole, 1.8 g | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | dichloroacetic anhydride | 0.01 mole, 2.4g | ClC(C(=O)OC(C(Cl)Cl)=O)Cl | C4H2Cl4O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-(dichloroacetamido)phenyl N-methylcarbamate | 2.35g | CNC(OC1=CC(=C(C=C1)NC(C(Cl)Cl)=O)C)=O | C11H12Cl2N2O3
